US05786356
(S)-3-(4-Amino-3-nitrophenoxy)-1,2-epoxypropane
A solution of 4-amino-3-nitrophenol (2.54 g, 16.5 mmol) and (2S)-(+)-glycidyl 3-nitrobenzenesulfonate (4.27 g, 16.5 mmol) in 50 mL of acetone was treated with 1.1 equivalents of K2CO3 (2.50 g, 18.1 mmol) and stirred at reflux for 20 hours. The suspension was cooled to ambient temperature, concentrated in vacuo to dryness. The resulting solids were partitioned between chloroform and water, and the aqueous layer extracted with chloroform. The organic layers were combined and dried over MgSO4 and concentrated in vacuo to provide 3.0 g (87%) of an orange solid. TLC and NMR indicated >95% purity, so the material was used without further purification. NMR.

reactant | 4-amino-3-nitrophenol | 16.5 mmol, 2.54 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | (2S)-(+)-glycidyl 3-nitrobenzenesulfonate | 16.5 mmol, 4.27 g | C1[C@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
reactant | K2CO3 | 18.1 mmol, 2.50 g, 1.1 equivalents | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (S)-3-(4-Amino-3-nitrophenoxy)-1,2-epoxypropane | 3.0 g, 87% | NC1=C(C=C(OC[C@@H]2CO2)C=C1)[N+](=O)[O-] | C9H10N2O4
